US08431695B2
Step 8: Preparation of benzyl 3-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)azetidine-1-carboxylate
A solution of benzyl 3-(1-amino-5-cyano-1H-pyrrol-2-yl)azetidine-1-carboxylate (575 mg, 1.94 mmoL) and formamidine acetate (2.02 g, 19.4 mmol) in 1-butanol (8 mL) was stirred at 120° C. for 4 hours. The mixture was then cooled to rt and was partitioned between EtOAc (25 mL) and H2O (25 mL). The layers were separated and the aqueous layer was further extracted with EtOAc (2×25 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated. The crude material was purified by ISCO® chromatography using 3:1 ethyl acetate/hexanes to obtain 250 mg (40%) of the desired product. ES-MS m/z 324.34 [M+H]+, HPLC RT (min) 2.30.

reactant | benzyl 3-(1-amino-5-cyano-1H-pyrrol-2-yl)azetidine-1-carboxylate | 575 mg | NN1C(=CC=C1C#N)C1CN(C1)C(=O)OCC1=CC=CC=C1 | C16H16N4O2
reactant | formamidine acetate | 19.4 mmol, 2.02 g | C(C)(=O)O.C(=N)N
solvent | 1-butanol | 8 mL | C(CCC)O | C4H10O
product | benzyl 3-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)azetidine-1-carboxylate | 250 mg, 40% | NC1=NC=NN2C1=CC=C2C2CN(C2)C(=O)OCC2=CC=CC=C2 | C17H17N5O2
